US04567001
Likewise diflorasone diacetate (6α,9α-difluoro-11β,17α,21-trihydroxy-16β-methylpregna-1,4-diene-3,20-dione 17,21-diacetate) can be produced using the process of the present invention. First, 6α-fluoro-11β-hydroxyandrosta-1,4-diene-3,17-dione (U.S. Pat. No. 2,867,630) is dehydrated to 6α-fluoroandrost-1,4,9(11)-triene-3,17-dione by means well known to those skilled in the art, see Steroid Reactions, C. Djerassi, Holden-Day, San Francisco, 1963 p. 238 & 239. The 16-methylene group is then added by the process of U.S. patent application Ser. No. 349,490 to produce 6α-fluoro-16-methyleneandrosta-1,4,9(11)-triene-3,17-dione (IIIB) which is converted by the process of the present invention to 6α-fluoro-17α-hydroxy-16-methylenepregna-1,4,9(11)-triene-3,20-dione (VIIB). The 21-hydroxy function of the corticoids is next introduced as described above followed by transformation of the 16-methylene group to a 16β-methyl group also described above to give 6α-fluoro-17α,21-dihydroxy-16β-methylpregna- 1,4,9(11)-triene-3,20-dione 21-acetate which is acylated according to the procedure described in U.S. Pat. No. 4,154,748 (Examples 6 and 7) to produce 6α-fluoro-17α,21-dihydroxy-16β-methylpregna-1,4,9(11)-triene-3,20-dione 17,21-diacetate (U.S. Pat. No. 3,980,778, Example 6). 6α-fluoro-17α,21-dihydroxy-16β-methylpregna-1,4,9(11)-triene-3,20-dione-17,21-diacetate is then converted to diflorasone diacetate by the process of U.S. Pat. No. 3,980,778 (Examples 7 and 8).

reactant | 6α-fluoro-11β-hydroxyandrosta-1,4-diene-3,17-dione | F[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2[C@]2(C=CC(C=C12)=O)C)O)=O | C19H23FO3
reactant | 6α-fluoroandrost-1,4,9(11)-triene-3,17-dione | F[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC=C2[C@]2(C=CC(C=C12)=O)C)=O | C19H21FO2
product | 6α-fluoro-16-methyleneandrosta-1,4,9(11)-triene-3,17-dione | F[C@H]1C[C@H]2[C@@H]3CC(C([C@@]3(C)CC=C2[C@]2(C=CC(C=C12)=O)C)=O)=C | C20H21FO2
